* Test PDK for MNA precompilation testing
* This simulates a simple PDK structure with library sections

.LIB typical
* Typical corner models

* Simple NMOS model using resistors
* Ports: d g s b (drain, gate, source, bulk)
.SUBCKT nmos_1v8 d g s b W=1e-6 L=180e-9
* Simple model: when Vgs > Vth, conduct between d and s
* For testing, we just use a resistor between d and s
* Real PDK would have BSIM4 model card here
.PARAM Rds_on = '1000 * L / W'
R1 d s {Rds_on}
.ENDS nmos_1v8

* Simple PMOS model using resistors
.SUBCKT pmos_1v8 d g s b W=1e-6 L=180e-9
.PARAM Rds_on = '2000 * L / W'
R1 d s {Rds_on}
.ENDS pmos_1v8

* Simple inverter using the transistor models
.SUBCKT inv_x1 in out vdd vss WN=360e-9 WP=720e-9 L=180e-9
Xn out in vss vss nmos_1v8 W={WN} L={L}
Xp out in vdd vdd pmos_1v8 W={WP} L={L}
.ENDS inv_x1

* Controlled sources inside a PDK subcircuit.
* A PDK module imports nothing from Cadnip, so E/G/F/H have to resolve without
* an import preamble. Each stage drives a port so the deck can observe it.
.SUBCKT ctrl_amp in eout gout gnd GAIN=10 GM=1e-3
E1 eout gnd in gnd {GAIN}
R1 eout gnd 1k
G1 gnd gout eout gnd {GM}
R2 gout gnd 1k
.ENDS ctrl_amp

* A .model card at section level, used from a subcircuit. Resolved through the
* model registry (tier 1), the same lowering the deck path uses.
.MODEL pdk_diode d is=1e-14 n=1.0
.SUBCKT diode_1v8 a c
D1 a c pdk_diode
.ENDS diode_1v8

* A `.model` card whose parameter is an arithmetic expression. Codegen hoists it
* to a module-level `const`, so the operators run when the PDK module is
* *defined* — unlike a subcircuit body, which is only checked when it is called.
* A `baremodule` has no `Base`, so this is what catches a missing operator
* import, and it is the shape that broke VACASKModels.
.MODEL pdk_diode_scaled d is='2e-14 - 1e-14' n='0.5 + 0.5'
.SUBCKT diode_scaled a c
D1 a c pdk_diode_scaled
.ENDS diode_scaled

* A binned `.model` family, the shape every foundry PDK ships its devices in:
* one card per window of channel geometry, all referenced by the bare base name.
* `lmin`/`lmax` are the window, not device parameters — sp_mos1 has no field for
* them, so this only builds if they are stripped from the card.
.MODEL nch_binned.1 nmos level=1 lmin=0    lmax=1e-6 vto=0.4 kp=100e-6
.MODEL nch_binned.2 nmos level=1 lmin=1e-6 lmax=1    vto=1.0 kp=100e-6
.SUBCKT nfet_binned d g s b W=10e-6 L=5e-7
M1 d g s b nch_binned w={W} l={L}
.ENDS nfet_binned

* Two-input NAND gate
.SUBCKT nand2_x1 a b out vdd vss
* Pull-up network: PMOS in parallel
Xp1 out a vdd vdd pmos_1v8 W=720e-9 L=180e-9
Xp2 out b vdd vdd pmos_1v8 W=720e-9 L=180e-9
* Pull-down network: NMOS in series
Xn1 out a mid vss nmos_1v8 W=720e-9 L=180e-9
Xn2 mid b vss vss nmos_1v8 W=720e-9 L=180e-9
.ENDS nand2_x1

.ENDL typical

.LIB fast
* Fast corner models - lower resistance

.SUBCKT nmos_1v8 d g s b W=1e-6 L=180e-9
.PARAM Rds_on = '800 * L / W'
R1 d s {Rds_on}
.ENDS nmos_1v8

.SUBCKT pmos_1v8 d g s b W=1e-6 L=180e-9
.PARAM Rds_on = '1600 * L / W'
R1 d s {Rds_on}
.ENDS pmos_1v8

.SUBCKT inv_x1 in out vdd vss WN=360e-9 WP=720e-9 L=180e-9
Xn out in vss vss nmos_1v8 W={WN} L={L}
Xp out in vdd vdd pmos_1v8 W={WP} L={L}
.ENDS inv_x1

.ENDL fast

.LIB slow
* Slow corner models - higher resistance

.SUBCKT nmos_1v8 d g s b W=1e-6 L=180e-9
.PARAM Rds_on = '1200 * L / W'
R1 d s {Rds_on}
.ENDS nmos_1v8

.SUBCKT pmos_1v8 d g s b W=1e-6 L=180e-9
.PARAM Rds_on = '2400 * L / W'
R1 d s {Rds_on}
.ENDS pmos_1v8

.SUBCKT inv_x1 in out vdd vss WN=360e-9 WP=720e-9 L=180e-9
Xn out in vss vss nmos_1v8 W={WN} L={L}
Xp out in vdd vdd pmos_1v8 W={WP} L={L}
.ENDS inv_x1

.ENDL slow
